US05201931
(-)-(10R)-3,3,8,8,10-Pentamethyl-1,5-dioxaspiro[5,5]-undecan-9-one (32)
A mixture of (-)-(6R)-2,2,6-trimethyl-1,4-cyclohexandione (924 mg, 6.0 mmol), 2,2-dimethyl-1,3-propandiol (791 mg, 7.6 mmol), pyridinium p-tosylate (34 mg, 0.13 mmol), and benzene (15 mL) was heated to reflux under a Dean-Stark water separator for 4 h. The reaction mixture was allowed to cool to room temperature before it was washed with H2O, and dried over anhydrous Na2SO4. Evaporation of solvent gave a pale yellow oil (1.43 g) as the crude product, which was distilled using the Kugel-rohr apparatus (80°-100° C., 0.03 mm Hg) to give pure ketal as a colorless oil (1.31 g, 91%), [a]D -87.7° C. (c 1.10, CH3OH); ir: 1710 cm-1; 1H nmr d: 0.85 (s, 3H, CH3), 0.91 (d, J=6.6 Hz, 3H, CHCH3), 0.97 (s, 6H, 2 CH3), 1.16 (s, 3H, CH3), 1.56 (dd, J=13.5, 13.5 Hz, H-11ax), 1.58 (d, J=14.2 Hz, H-7ax), 2.38 (ddd, J=13.5, 5.3, 3.8 Hz, 1H, H-11eq), 2.47 (dd, J=14.2, 3.8 Hz, 1H, H-7eq), 2.85 (m, 1H, CHCH3), 3.41 and 3.48 (2dd, J=11.4, 1.6 Hz, 2H, 2 equatorial H at C2 and C4), 3.53 and 3.61 (2d, J=11.4 Hz, 2H, 2 axial H at C2 and C4); ms m/e: 240 (M+, 0.58), 141 (27), 155 (98), 83 (27), 69 (100).

reactant | (-)-(6R)-2,2,6-trimethyl-1,4-cyclohexandione | 6.0 mmol, 924 mg | CC1(C([C@@H](CC(C1)=O)C)=O)C | C9H14O2
reactant | 2,2-dimethyl-1,3-propandiol | 7.6 mmol, 791 mg | CC(CO)(CO)C | C5H12O2
reactant | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (-)-(10R)-3,3,8,8,10-Pentamethyl-1,5-dioxaspiro[5,5]-undecan-9-one | 1.43 g | CC1(COC2(OC1)CC(C([C@@H](C2)C)=O)(C)C)C | C14H24O3
